MOSFET Level 3 Id-Vds sweep
.model NMOS3 NMOS (LEVEL=3 VTO=-0.4758 KP=1.3812e-4 GAMMA=0.1668 PHI=0.7144
+ TOX=10e-9 NSUB=1e16 THETA=0 VMAX=0 KAPPA=0.2)

M1 D G 0 0 NMOS3 W=4u L=0.18u
VDS D 0 0
VGS G 0 0

.control
dc VDS 0 4 0.05 VGS 1 3 1
wrdata level3_output.csv v(d) i(vds) v(g)
.endc
.end